US07544703B2
N-(4-tert-Butylphenyl)-2-(2-morpholinoacetylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide (Compound No. 17-1)
N-(4-tert-Butylphenyl)-2-(2-chloroacetylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide (Compound No. 16-1, 50 mg, 0.11 mmol) was suspended in morpholine (1.0 mL), and the mixture was stirred for 2 hours at 80° C. in the sealed tube. Ethyl acetate (50 mL) was added to the reaction mixture, the whole was washed with water (50 mL) and brine (50 mL), and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the resulting solid was filtered off with diethyl ether and dried under reduced pressure to give 17 mg of the target compound as a pale yellow solid. (Yield 32%)

reactant | N-(4-tert-Butylphenyl)-2-(2-chloroacetylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide | 0.11 mmol, 50 mg | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)SC(C1=CC=NC=C1)NC(CCl)=O | C24H25ClN4O2S
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | morpholine | 1.0 mL | N1CCOCC1 | C4H9NO
product | N-(4-tert-Butylphenyl)-2-(2-morpholinoacetylaminopyridin-4-ylmethylthio)pyridine-3-carboxamide | 17 mg, Yield 32% | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)SC(C1=CC=NC=C1)NC(CN1CCOCC1)=O | C28H33N5O3S
